US07423158B2
Using essentially the same procedure described in Example 1, step a, and employing 2-(3-ethynylphenyl)-1,3-dioxolane and 1-(difluoromethoxy)-4-iodobenzene, the coupled product was obtained. This product was purified on silica gel (ISCO) using hexanes/EtOAc 5/1 as the eluting solvents to give 2-(3-{[4-(difluoromethoxy)phenyl]ethynyl}phenyl)-1,3-dioxolane as a yellow oil (7.9 g, 85% yield), MS m/e (M+H)+ 317; 1H NMR (400 MHz, DMSO-d6) 3.9-4.05 (m, 4H), 5.72 (s, 1H), 7.1-7.3 (m, 3H), 7.4 (m, 2H), 7.5-7.6 (m, 4H).

reactant | 2-(3-ethynylphenyl)-1,3-dioxolane | C(#C)C=1C=C(C=CC1)C1OCCO1 | C11H10O2
reactant | 1-(difluoromethoxy)-4-iodobenzene | FC(OC1=CC=C(C=C1)I)F | C7H5F2IO
product | 2-(3-{[4-(difluoromethoxy)phenyl]ethynyl}phenyl)-1,3-dioxolane | 7.9 g, 85% yield | FC(OC1=CC=C(C=C1)C#CC=1C=C(C=CC1)C1OCCO1)F | C18H14F2O3
